US06107458
To a solution of 4-n-Hexyloxybenzoylhydrazine (1.96 g) and pyridine (0.74 ml) in tetrahydrofuran (20 ml) was added a solution of terephthalic acid monomethyl ester chloride (1.56 g) in tetrahydrofuran (15 ml) dropwise at 0° C. The reaction mixture was stirred at room temperature for 2 hours, and poured into water. The precipitate was collected by filtration and washed with acetonitrile. The residue was dried under reduced pressure to give 1-(4-n-Hexyloxybenzoyl)-2-(4-methoxycarbonylbenzoyl)hydrazine (2.99 g).

reactant | 4-n-Hexyloxybenzoylhydrazine | 1.96 g | C(CCCCC)OC1=CC=C(C(=O)NN)C=C1 | C13H20N2O2
reactant | pyridine | 0.74 ml | N1=CC=CC=C1 | C5H5N
reactant | terephthalic acid monomethyl ester chloride | 1.56 g | [Cl-].COC(C1=CC=C(C(=O)O)C=C1)=O
reactant | water | O | H2O
solvent | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 15 ml | O1CCCC1 | C4H8O
product | 1-(4-n-Hexyloxybenzoyl)-2-(4-methoxycarbonylbenzoyl)hydrazine | 2.99 g | C(CCCCC)OC1=CC=C(C(=O)NNC(C2=CC=C(C=C2)C(=O)OC)=O)C=C1 | C22H26N2O5
